US05696112
N-[4-[(5,6,7,8-Tetrahydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]phenyl]-2-methylbenzamide
As described for Example 1, 4-(4-aminobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine (0.001 ml) is reacted with 2-methylbenzoyl chloride in dichloromethane to give the product. Crystallization from ethyl acetate-hexane gives crystals, m.p. 181°-182° C.

reactant | 4-(4-aminobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | 0.001 ml | NC1=CC=C(C(=O)N2C3=C(CCCC2)SC=C3)C=C1 | C15H16N2OS
reactant | 2-methylbenzoyl chloride | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[4-[(5,6,7,8-Tetrahydro-4H-thieno[3,2-b]azepin-4-yl)carbonyl]phenyl]-2-methylbenzamide | S1C=CC=2N(CCCCC21)C(=O)C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O | C23H22N2O2S
